US04141995
2-Acetoxy-4'-chloro-5-ethylbenzophenone
2-Hydroxy-5-ethyl-4'-chlorobenzophenone (3 g), in acetic anhydride (10 ml) and acetic acid (1 ml) were refluxed for 3.5 hours, and allowed to cool. The mixture was poured into dilute NaOH solution and extracted with chloroform. The chloroform was washed with 10% NaHCO3 solution (50 ml), dried (MgSO4) and evaporated to leave an oil which was distilled, b.p. 160°-165° C. at 3.5 mm/Hg (2.3 g) to give the desired product.

reactant | 2-Hydroxy-5-ethyl-4'-chlorobenzophenone | 3 g | OC1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)CC | C15H13ClO2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | NaOH | [OH-].[Na+]
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetoxy-4'-chloro-5-ethylbenzophenone | C(C)(=O)OC1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)CC | C17H15ClO3
